US08633207B2
Sodium 2-(5-fluoropyridin-2-yl)acetate is treated with 1-1.5 equiv of Br2 in the presence of phosphorus tribromide under standard Hell-Volhard-Zelinskii reaction conditions (J. March “Advanced Organic Chemistry” 3rd Edition, 1985, p. 531 and references therein) to afford 2-bromo-2-(5-fluoropyridin-2-yl)acetic acid.

reactant | Sodium 2-(5-fluoropyridin-2-yl)acetate | FC=1C=CC(=NC1)CC(=O)[O-].[Na+]
reactant | Br2 | 1-1.5 equiv | BrBr | Br2
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 2-bromo-2-(5-fluoropyridin-2-yl)acetic acid | BrC(C(=O)O)C1=NC=C(C=C1)F | C7H5BrFNO2
